US07067683B2
Procedure I (Synthesis of 17-Oxoestra-1,3,5(10)-triene-3-yl Sulfamate)
A mixture of formic acid (284.92 mmol) and N,N-dimethyl acetamide (3.03 mmol) was added to a stirred solution of chlorosulfonyl isocyanate (277.47 mmol) in dichloromethane (87.5 ml) at 42° C. within a period of 3.5 hours. The mixture was heated to reflux for 15 minutes and cooled to ambient temperature. The resulting mixture was added to a stirred solution of estrone (184.93 mmol) in N,N-dimethyl acetamide (625 ml) at ambient temperature within a period of 20 minutes. The mixture was stirred at ambient temperature for 17 hours, and then poured onto water (1875 ml). After a while a white precipitate was formed. The suspension was stirred at ambient temperature for another 2 hours, and filtered. The crystals were washed twice with water (250 ml), and used without further drying and purification in the next step (Procedure II). Yield: 87.8 g (wet material) white crystals, purity (HPLC): 99.12%.

reactant | formic acid | 284.92 mmol | C(=O)O | CH2O2
reactant | chlorosulfonyl isocyanate | 277.47 mmol | ClS(=O)(=O)N=C=O | CClNO3S
reactant | estrone | 184.93 mmol | C[C@]12CC[C@@H]3C=4C=CC(=CC4CC[C@H]3[C@@H]1CCC2=O)O | C18H22O2
solvent | dichloromethane | 87.5 ml | ClCCl | CH2Cl2
solvent | N,N-dimethyl acetamide | 625 ml | CN(C(C)=O)C | C4H9NO
solvent | N,N-dimethyl acetamide | 3.03 mmol | CN(C(C)=O)C | C4H9NO
product | 17-Oxoestra-1,3,5(10)-triene-3-yl Sulfamate | S(N)(OC1=CC=2CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3C2C=C1)=O)(=O)=O | C18H23NO4S
